US09193697B2
Step A6.2-1: tert-butyl 4-{4-[4-(methylsulfanyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate
2-Bromo-1-[4-(methylsulfanyl)phenyl]ethanone (5 g, 19.15 mmol) and tert-butyl 4-carbamoylpiperidine-1-carboxylate (4.37 g, 19.15 mmol) were dissolved in DMPU (40.8 mL) and heated to 145° C. for 15 min. The resulting solution was then cooled to room temperature, partitioned between aqueous LiCl and ethyl acetate. The combined organics were dried over sodium sulfate and concentrated in vacuo. The resulting crude oil was purified using silica gel chromatography (300 g, using 20-80% ethyl acetate in hexane gradient) to yield 1.8 g of the desired product as a yellow oil. LCMS (M+1)=375.40

reactant | 2-Bromo-1-[4-(methylsulfanyl)phenyl]ethanone | 19.15 mmol, 5 g | BrCC(=O)C1=CC=C(C=C1)SC | C9H9BrOS
reactant | tert-butyl 4-carbamoylpiperidine-1-carboxylate | 19.15 mmol, 4.37 g | C(N)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O3
solvent | DMPU | 40.8 mL | CN1CCCN(C1=O)C | C6H12N2O
product | tert-butyl 4-{4-[4-(methylsulfanyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate | 1.8 g | CSC1=CC=C(C=C1)C=1N=C(OC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H26N2O3S
